US09120884B2
In a 1000 mL round flask, 2,9,9-trimethyl-2,3-dihydrocyclopenta[b]fluoren-1(9H)-one (50 g, 190.6 mmol) was dissolved in 400 mL of toluene, and then the temperature was lowered to 0° C. Then, 76 mL of 3M methylmagnesium bromide (THF solution) was slowly injected thereto, followed by stirring at room temperature for 12 hours. The reaction product was poured into a mixture of 200 mL of 1N-HCl aqueous solution and 200 g of ice. The mixture was stirred for 1 hour, followed by extraction with toluene, and then the organic layer was dried over magnesium sulfate, followed by removal of volatile materials. The dried reaction product was dissolved in 320 mL of toluene, and then inputted to a 500 mL round flask. After that, p-toluene sulfonic acid (0.2 g) was inputted thereto, and then water was completely removed under reflux with Dean-Stark. The resultant material was cooled to room temperature, and then an aqueous ammonium chloride solution (150 mL) and 200 mL of diethyl ether were injected thereto, followed by separation of the organic layer. The organic layer collected by extracting the residue with diethyl ether was dried over magnesium sulfate, followed by removal of volatile materials, and then purified by using silica gel column chromatography, to thereby obtain 42.0 g of 1,2,9,9-tetramethyl-3,9-dihydrocyclopenta[b]fluorene (yield: 84.6%).

reactant | 2,9,9-trimethyl-2,3-dihydrocyclopenta[b]fluoren-1(9H)-one | 190.6 mmol, 50 g | CC1CC=2C(=CC=3C(C4=CC=CC=C4C3C2)(C)C)C1=O | C19H18O
reactant | methylmagnesium bromide | 3M, 76 mL | C[Mg]Br
reactant | HCl | Cl | ClH
reactant | p-toluene sulfonic acid | 0.2 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | toluene | 400 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 320 mL | C1(=CC=CC=C1)C | C7H8
product | 1,2,9,9-tetramethyl-3,9-dihydrocyclopenta[b]fluorene | 42.0 g, yield: 84.6% | CC1=C(CC=2C1=CC=1C(C3=CC=CC=C3C1C2)(C)C)C | C20H20
